US04565425
A mixture of 4.2 g of p-[4-(methoxymethylene)cyclohexyl]benzonitrile and 100 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) was heated to reflux for 30 minutes in a round flask. The mixture was subsequently poured into 100 ml of water and extracted three times with 100 ml of diethyl ether each time. The organic phases were washed once with 100 ml of water, dried over magnesium sulphate and concentrated. There were obtained 3.9 g (100%) of 4-(p-cyanophenyl)cyclohexanecarboxaldehyde as a colourless oil which was used in the next step without further purification: trans/cis ratio about 3:1, Rf-value (ethyl acetate/petroleum ether vol. 3:7) 0.41. By recrystallization from hexane there could be obtained pure trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde; m.p. 57.1° C.

reactant | p-[4-(methoxymethylene)cyclohexyl]benzonitrile | 4.2 g | COC=C1CCC(CC1)C1=CC=C(C#N)C=C1 | C15H17NO
reactant | tetrahydrofuran | 2N, 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-(p-cyanophenyl)cyclohexanecarboxaldehyde | 3.9 g, 100% | C(#N)C1=CC=C(C=C1)C1CCC(CC1)C=O | C14H15NO
